US09056843B2
To a suspension of 2-fluoro-4-(N-hydroxycarbamimidoyl)-benzoic acid (786.3 mg, 3.89 mmol) in THF (13 ml) was added drop wise TFAA (0.824 ml, 5.83 mmol) over 30 min. The solution was stirred for 4 h. After evaporation, crude product was washed with EtOAc and filtered on a glass sinter funnel. After drying, 2-fluoro-4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid (1.044 g, 3.71 mmol, 95% yield) was obtained as a greenish solid.

reactant | 2-fluoro-4-(N-hydroxycarbamimidoyl)-benzoic acid | 3.89 mmol, 786.3 mg | FC1=C(C(=O)O)C=CC(=C1)C(NO)=N | C8H7FN2O3
reactant | TFAA | 5.83 mmol, 0.824 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | THF | 13 ml | C1CCOC1 | C4H8O
product | 2-fluoro-4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | 3.71 mmol, 1.044 g, 95% yield | FC1=C(C(=O)O)C=CC(=C1)C1=NOC(=N1)C(F)(F)F | C10H4F4N2O3
